US06916819B2
1. Preparation of isobutyrylacetic acid
A mixture of ethyl isobutyrylacetate (20.47 g, 129 mmol) and 1.5 M aq NaOH (250 mL) is stirred at room temperature overnight. The solution is then cooled to 0° C. and acidified to pH 1-2 by the slow addition of conc. HCl (˜35 mL). The solution is then saturated with NaCl and extracted thrice with EtOAc and once with CHCl3. The combined extracts are dried over Na2SO4 and concentrated to 14.46 g (86%) of isobutyrylacetic acid as an oil. 1H NMR (CDCl3, 300 MHz) reveals a mixture of keto and enol forms (˜4:1), in favor of the keto form. Keto form: δ 3.57 (s, 2H), 2.73 (sept, J=6.9 Hz, 1H), 1.16 (d, J=6.9 Hz, 6H) ppm. Enol form: 11.85 (s, 1H), 5.03 (s, 1H), 2.44 (sept, J=6.9 Hz, 1H), 1.10 (d, J=6.9 Hz, 6H) ppm.

reactant | ethyl isobutyrylacetate | 129 mmol, 20.47 g | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | HCl | ˜35 mL | Cl | ClH
solvent | NaOH | 1.5 M, 250 mL | [OH-].[Na+]
product | isobutyrylacetic acid | C(C(C)C)(=O)CC(=O)O | C6H10O3
